US04500733
Sodium (0.5 g) was dissolved in 37 ml of absolute ethanol, and 2.9 g of ethyl 2-acetyl-4,6,6,6-tetrachloro-3,3-dimethylhexanoate was added thereto. The mixture was stirred at room temperature for 30 minutes and then heated at a temperature of 50° C. for 24 hours with stirring. The mixture was rendered neutral with an ethereal solution of hydrogen chloride, while cooled with ice and the solvent was distilled off. The resulting residue was dissolved in diethyl ether, and the solution was washed with water, dried over anhydrous magnesium sulfate, and distilled to give 2.01 g (88% yield) of ethyl 1-acetyl-2-(2,2-dichlorovinyl)3,3-dimethylcyclopropanecarboxylate.

reactant | Sodium | 0.5 g | [Na] | Na
reactant | ethyl 2-acetyl-4,6,6,6-tetrachloro-3,3-dimethylhexanoate | 2.9 g | C(C)(=O)C(C(=O)OCC)C(C(CC(Cl)(Cl)Cl)Cl)(C)C | C12H18Cl4O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 37 ml | C(C)O | C2H6O
product | ethyl 1-acetyl-2-(2,2-dichlorovinyl)3,3-dimethylcyclopropanecarboxylate | 2.01 g, 88% yield | C(C)(=O)C1(C(C1(C)C)C=C(Cl)Cl)C(=O)OCC | C12H16Cl2O3
